US07297795B2
To a solution of 1-{[4-(2-methoxy-5-nitrophenyl)-2-furyl]methyl}-4-methylpiperazine (396 mg, 1.19 mmol) in 20 mL of methanol was added 10% palladium on carbon (40 mg). The resulting mixture was shaken with hydrogen in a Parr shaker until hydrogen uptake ceased. The reaction mixture was filtered through Celite and the filtrate concentrated in vacuo to give 358 mg (100%) of (4-methoxy-3-[5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}phenyl)amine as a brown oil, 1H NMR (DMSO-d6) δ 2.14 (s, 3H), 2.29 (broad s, 4H), 2.40 (broad s, 4H), 3.49 (s, 2H), 3.72 (s, 3H), 4.61 (s, 2H), 6.47 (d, J=8 Hz, 1H), 6.58 (s, 1H), 6.78 (d, J=9 Hz, 1H), 6.80 (s, 1H), 7.91 (s, 1H); MS 302.1 (M+H)+.

reactant | 1-{[4-(2-methoxy-5-nitrophenyl)-2-furyl]methyl}-4-methylpiperazine | 1.19 mmol, 396 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=C(OC1)CN1CCN(CC1)C | C17H21N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | (4-methoxy-3-[5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}phenyl)amine | 358 mg, 100% | COC1=C(C=C(C=C1)N)C1=COC(=C1)CN1CCN(CC1)C | C17H23N3O2
